US08314100B2
c) 1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine
Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate (28 mg, 0.091 mmol) and 1-(3-methoxy phenyl)piperazine (27 mg, 0.18 mmol) were dissolved in tetrahydrofuran (2 ml) at room temperature and thereto DBU (27 mg, 0.18 mmol) was added. The resulting mixture was stirred at 70° C. for 7 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (1:2) mixture and concentration gave 26 mg of the titled compound (yield, 64%). 1H NMR (300 MHz, CDCl3) δ 3.27-3.29 (m, 4H), 3.78-3.81 (m, 7H), 3.94 (s, 3H), 3.97-3.98 (m, 1H), 4.00 (s, 3H), 4.15 (s, 3H), 6.47-6.49 (m, 2H), 6.56-6.58 (m, 1H), 7.11 (s, 1H), 7.14-7.27 (m, 3H).

reactant | Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate | 0.091 mmol, 28 mg | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)OC)OC | C14H17N3O5
reactant | 1-(3-methoxy phenyl)piperazine | 0.18 mmol, 27 mg | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
reactant | DBU | 0.18 mmol, 27 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine | 26 mg, 64% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)OC)OC | C23H27N5O5
